Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right foot infection
 
Major Surgical or Invasive Procedure:
___ foot debridement

 
History of Present Illness:
This is a ___ year old male with type II diabetes mellitus who 
presents to the ED today with a right foot infection. He was 
seen by Dr. ___ ___ his ___ Clinic this week, who 
recommended the patient present to the ___ ED today for 
pre-operative admission for a right foot debridement due to 
infection. The patient has b/l foot ulcers for at least ___ 
years and he has noticed that the right foot ulcer has recently 
gotten progressively worse and his foot has started to become 
very red. He has notice a decent amount of drainage from the 
wound, some of which has been purulent. He was started on 
Amoxicillin within the last week for the foot infection. He 
admits to being diabetic, but does not currently take any 
medication for it and controls his blood sugars with a good 
diet. He states his most recent HbA1c was around 6.1 and his 
blood sugars are normally ___ the low 100's. ___ the setting of 
this infection, they have been slightly elevated. He admits to 
having some fevers at home. He denies any recent nausea, 
vomiting, shortness of breath, or chest pain. 

 
Past Medical History:
Diabetes Mellitus Type II
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Admission Physical Examination: 
General: Well appearing male ___ no acute distress
Vitals: T: 99.8  NR: 103  BP: 136/76  RR: 19  SpO2: 96%
Cards: RRR, Extremities well perfused
Lungs: CTAB, no respiratory distress
Abd: Soft, NT, ND
Lower extremity focused exam: ___ pulses palpable. CFT< 3 
seconds to the digits. Right foot with dorsal and plantar 
erythema and edema present. No erythema or edema to left foot. 
Protective sensation diminished. Full thickness ulceration noted 
to the plantar lateral aspect of the right foot with a fibrotic 
central plug and surrounding fibrogranular tissue. Wound with 
foul odor present and fragmented bone. Wound probes to bone. 
Left foot with full thickness ulceration noted to the fifth 
metatarsal base with a fibrogranular base and surrounding 
hyperkeratotic tissue present. Full thickness ulceration noted 
to the plantar left heel with a fibrogranular base and 
hyperkeratotic base. Neither left foot ulcer probes to bone. No 
associated purulence or erythema with left foot wounds. 

Discharge Physical Exam:
General: Well appearing male ___ no acute distress
Vitals: AVSS
Cards: RRR, Extremities well perfused
Lungs: CTAB, no respiratory distress
Abd: Soft, NT, ND
Lower extremity focused exam: ___ pulses palpable. CFT< 3 
seconds to the digits. Clean dry surgical dressing ___ place.

 
Pertinent Results:
___ 04:30PM BLOOD WBC-11.2* RBC-5.12 Hgb-16.0 Hct-47.5 
MCV-93 MCH-31.3 MCHC-33.7 RDW-11.9 RDWSD-40.7 Plt ___
___ 04:30PM BLOOD Neuts-76.4* Lymphs-10.6* Monos-9.6 
Eos-2.4 Baso-0.4 Im ___ AbsNeut-8.55* AbsLymp-1.19* 
AbsMono-1.07* AbsEos-0.27 AbsBaso-0.04
___ 04:30PM BLOOD ___ PTT-33.6 ___
___ 04:30PM BLOOD Plt ___
___ 04:30PM BLOOD Glucose-147* UreaN-22* Creat-1.2 Na-135 
K-5.2* Cl-94* HCO3-27 AnGap-14
___ 04:30PM BLOOD CRP-246.1*
___ 04:38PM BLOOD Lactate-1.9

MICRO:
___ 4:12 pm SWAB      Source: right foot ulcer. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 
___ 4:15 pm TISSUE      RIGHT FOOT ULCER BONE. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   TISSUE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 

 
Brief Hospital Course:
The patient was admitted to the podiatric surgery service from 
the ED on ___ for a R foot infection. On admission, he was 
started on broad spectrum antibiotics. He was taking to the OR 
for Right foot debridement on ___. Pt was evaluated by 
anesthesia and taken to the operating room.  There were no 
adverse events ___ the 
operating room; please see the operative note for details. 
Afterwards, pt was taken to the PACU ___ stable condition, then 
transferred to the ward for observation. 

Post-operatively, the patient remained afebrile with stable 
vital signs; pain was well controlled oral pain medication on a 
PRN basis.  The patient remained stable from both a 
cardiovascular and pulmonary standpoint. He was placed on 
vancomycin, ciprofloxacin, and flagyl while hospitalized and 
discharged with oral antibiotics. His intake and output were 
closely monitored and noted to be adequate. The patient received 
subcutaneous heparin throughout admission; early and frequent 
ambulation were strongly encouraged. Physical therapy worked 
with the pt and declared that ___ home with crutches was safe 
for the patient. The patient decided that he wanted to be 
discharged on ___ rather than ___, which was not what we had 
recommended.

The patient was subsequently discharged to home on POD 3 with PO 
antibiotics, wound care instructions and follow up 
instructions..  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with 
the discharge plan.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right foot infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your right foot surgery. 
You were given IV antibiotics while here. You are being 
discharged home with the following instructions: 

ACTIVITY:
There are restrictions on activity. Please remain non weight 
bearing to your R foot until your follow up appointment. You 
should keep this site elevated when ever possible (above the 
level of the heart!) 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness ___ or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking ___ a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods ___ your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___